US07674795B2
The procedure used in Example 6 is followed, but starting from 4 g of 4-(4-methyl-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, and 0.7 g of Raney nickel in 100 ml of ethanol and 100 ml of tetrahydrofuran for 10 hours at 60° C. under an initial hydrogen pressure of one bar. After filtration of the catalyst, and then purification by formation of a paste in diisopropyl ether, in this way we obtain 2.7 g of 4-(4-methyl-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a beige powder which is used as it is in the following stage.

reactant | 4-(4-methyl-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 4 g | CC1=CC=CC=2NC(=NC21)C2=CC=CC=1C(C3=CC=CC=C3C21)=NO | C21H15N3O
catalyst | Raney nickel | 0.7 g | [Ni] | Ni
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(4-methyl-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine | 2.7 g | CC1=CC=CC=2NC(=NC21)C2=CC=CC=1C(C3=CC=CC=C3C21)N | C21H17N3
